US07115624B1
To a solution of the above 2-benzyloxycarbonylamino-5-(1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3,6-dicarboxylic acid di-tert-butyl ester (9 mg, 0.014 mmol) in methanol (2 ml) was added 10% Pd/C (4 mg). The mixture was stirred under hydrogen (1 atm.) for 3 hours and then filtered. The filtrate was evaporated in vacuo affording 6 mg (93%) of 2-amino-5-(1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3,6-dicarboxylic acid di-tert-butyl ester as a solid.

reactant | 2-benzyloxycarbonylamino-5-(1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3,6-dicarboxylic acid di-tert-butyl ester | 0.014 mmol, 9 mg | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(CC21)CN2C(C1=CC=CC=C1C2)=O)C(=O)OC(C)(C)C)NC(=O)OCC2=CC=CC=C2 | C34H39N3O7S
solvent | methanol | 2 ml | CO | CH4O
catalyst | Pd/C | 4 mg | [Pd] | Pd
product | 2-amino-5-(1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3,6-dicarboxylic acid di-tert-butyl ester | 6 mg, 93% | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(CC21)CN2C(C1=CC=CC=C1C2)=O)C(=O)OC(C)(C)C)N | C26H33N3O5S
